US09255100B2
N-cyclopropyl-4-[8-(isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzenecarbothioamide
A mixture of 40 mg (108 μmol) 4-[8-(isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzaldehyde which was prepared according to intermediate example 13a, 3.45 mg sulfur, 37 μL cyclopropanamine and 250 μL dimethyl sulfoxide were heated at 100° C. under microwave irradiation for 4 hours. The mixture was stirred at 90° C. overnight, the solvent was evaporated and the residue purified by chromatography to give 4.8 mg (10%) of the title compound.

reactant | 4-[8-(isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzaldehyde | 108 μmol, 40 mg | C(C(C)C)NC=1C=2N(N=C(C1)C1=CC=NC=C1)C(=CN2)C2=CC=C(C=O)C=C2 | C22H21N5O
reactant | sulfur | 3.45 mg | [S] | S
reactant | cyclopropanamine | 37 μL | C1(CC1)N | C3H7N
reactant | dimethyl sulfoxide | 250 μL | CS(=O)C | C2H6OS
product | N-cyclopropyl-4-[8-(isobutylamino)-6-(pyridin-4-yl)imidazo[1,2-b]pyridazin-3-yl]benzenecarbothioamide | 4.8 mg, 10% | C1(CC1)NC(=S)C1=CC=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=NC=C2 | C25H26N6S
